US09289531B2
Synthesis of 2-[4-(4-phenoxyphenoxy)phenyl]ethanol
To a 1 L round bottom flask were charged 4-phenoxyphenol (95.0 g, 0.51 mol). THF (100 mL), sodium hydroxide (24 g, 0.6 mol), and DI water (80 mL). The mixture was magnetically stirred at room temperature for 30 minutes, followed by removal of solvent under reduced pressure. The white solid was then dried under vacuum (70 mTorr) at 150° C. overnight and cooled to room temperature. To the flask were then added 1-bromo-4-[2-(phenylmethoxy)ethyl]benzene (150 g, 0.51 mol) and anhydrous pyridine (100 mL). The mixture was purged with nitrogen for 15 minutes, followed by the addition of cuprous chloride (5 g, 0.05 mol). The mixture was then purge with nitrogen for additional 15 min and then sealed under nitrogen and magnetically stirred in a 130° C. oil bath for a week. After removal of pyridine under vacuum, the crude product was dissolved in methylene chloride (600 mL) and washed with 2N HCl (200 mL×3), 2N NaOH (200 mL×3). After removal of solvent under reduced pressure, the crude product was recrystallized from methanol/ethyl acetate (9/1, v/v). The product was then hydrogenated at 100 PSI in THF using palladium 10% on carbon as catalyst to give crude 2-[4-(4-phenoxyphenoxy)phenyl]ethanol. This crude product was then distilled under vacuum followed by recrystallization from hexanes/ethyl acetate (1/1, v/v) to give the product as white crystals (122 g, 78% over two steps).

reactant | 4-phenoxyphenol | 0.51 mol, 95.0 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 0.6 mol, 24 g | [OH-].[Na+]
reactant | 1-bromo-4-[2-(phenylmethoxy)ethyl]benzene | 0.51 mol, 150 g | BrC1=CC=C(C=C1)CCOCC1=CC=CC=C1 | C15H15BrO
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | DI water | 80 mL | O | H2O
product | 2-[4-(4-phenoxyphenoxy)phenyl]ethanol | 122 g, 78% | O(C1=CC=CC=C1)C1=CC=C(OC2=CC=C(C=C2)CCO)C=C1 | C20H18O3
